US06958350B2
b) 3-[5-(2-Chloro-phenylamino)-[1,3,4]oxadiazol-2-yl]-N-[1-(3,4-difluorobenzyl)-piperidin-4-yl]-propionamide
1-Chloro-2-isothiocyanato-benzene (0.125 g) and N-[1-(3,4-difluorobenzyl)-piperidin-4-yl]-3-hydrazinocarbonyl-propionamide (0.20 g) were stirred together in dimethylformamide (2 ml) at ambient temperature for 2 hours. AM resin (0.35 g, Novabiochem, 2% DVB 1.57 mmol/g) was added and the resulting mixture was stirred at ambient temperature for 16 hours. N-cyclohexylcarbodiimide N-methyl polystyrene HL (0.682 g, Novabiochem, 1.69 mmol/g) was added and the resulting mixture was stirred at 80° C. for 24 hours, then allowed to cool. The reaction mixture was then filtered, washing with dimethylformamide (2×2 ml). The combined filtrates were evaporated and the residue was purified by reverse phase HPLC to give the title compound as a white solid. (0.094 g, m.pt. 162-163° C., MS [M+H]+ (APCI+) 476/8).

reactant | 1-Chloro-2-isothiocyanato-benzene | 0.125 g | ClC1=C(C=CC=C1)N=C=S | C7H4ClNS
reactant | N-[1-(3,4-difluorobenzyl)-piperidin-4-yl]-3-hydrazinocarbonyl-propionamide | 0.20 g | FC=1C=C(CN2CCC(CC2)NC(CCC(=O)NN)=O)C=CC1F | C16H22F2N4O2
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 3-[5-(2-Chloro-phenylamino)-[1,3,4]oxadiazol-2-yl]-N-[1-(3,4-difluorobenzyl)-piperidin-4-yl]-propionamide | ClC1=C(C=CC=C1)NC1=NN=C(O1)CCC(=O)NC1CCN(CC1)CC1=CC(=C(C=C1)F)F | C23H24ClF2N5O2
